US08193164B2
Step JB3: [(R)-1-((R)-Pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
To a solution of [(R)-1-((R)-1-benzyl-pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester in ethanol under an inert atmosphere of argon is added palladium hydroxide on carbon. The reaction mixture is purged with argon and placed under an atmosphere of hydrogen for over night. The mixture is filtered and the catalyst washed with ethanol. The organic portions are combined and concentrated in vacuo to yield the title compound.

reactant | [(R)-1-((R)-1-benzyl-pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(N[C@H]1CN(CC1)CC1=CC=CC=C1)=O)=O | C21H32N4O3
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | [(R)-1-((R)-Pyrrolidin-3-ylcarbamoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(N[C@H]1CNCC1)=O)=O | C14H26N4O3
